US07989457B2
To a solution of 4-bromobenzaldehyde (1 g, 5.40 mmol) in THF (21.6 mL) is added (2-trifluoromethyl)phenylboronic acid (1.67 g, 8.1 mmol), potassium fluoride (780 mg, 16.2 mmol), palladium(II) acetate (12.1 mg, 0.054 mmol), and 2-(dicyclohexylphosphino)-biphenyl (37.9 mg, 0.108 mmol). The reaction mixture is heated to reflux overnight. After cooling to rt, the reaction mixture is partitioned between dichloromethane and water. The aqueous layer is back-extracted with dichloromethane, the combined organic layers are dried and concentrated, then loaded onto silica gel and eluted using hexanes with an ethyl acetate gradient from 0% to 60% giving 2′-trifluoromethylbiphenyl-4-carbaldehyde (1.0548 g).

reactant | 4-bromobenzaldehyde | 5.40 mmol, 1 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | (2-trifluoromethyl)phenylboronic acid | 8.1 mmol, 1.67 g | B(C1=CC=CC=C1C(F)(F)F)(O)O | C7H6BF3O2
reactant | potassium fluoride | 16.2 mmol, 780 mg | [F-].[K+]
solvent | THF | 21.6 mL | C1CCOC1 | C4H8O
catalyst | palladium(II) acetate | 0.054 mmol, 12.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(dicyclohexylphosphino)-biphenyl | 0.108 mmol, 37.9 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
product | 2′-trifluoromethylbiphenyl-4-carbaldehyde | 1.0548 g | FC(C1=C(C=CC=C1)C1=CC=C(C=C1)C=O)(F)F | C14H9F3O
